****************************************************************
* INFINEON TECHNOLOGIES
* RF-PACKAGE EQUIVALENT CIRCUIT
* VALID UP TO 6 GHZ
* >>> SOD323 <<< (RF-DIODE-PACKAGE)
* FILENAME: SOD323.TXT
* Extracted on behalf of INFINEON TECHNOLOGIES by
* Institut fuer Mobil- und Satellitenfunktechnik (IMST)
* (C) 2001 INFINEON TECHNOLOGIES
* Version 1.1             June 2001               J. P. Schaffer
****************************************************************
*
*                           CAC
*             (10)          | |          (20)
*              +------------| |------------+
*              |            | |            |
*         LAO  |                           |  LCO
*     A---LLL--+                           +--LLL---C
*   (100)      |                           |      (200)
*              |  LAI                      |
*              +--LLL---A' CHIP  C'--------+
*                      (1)      (2)
*
.subckt BBY53 100 200
LAI    1   10   0.55nH       ; LAI
CAC   10   2   110fF        ; CAC
LAD   10   100  0.67nH       ; LAO
LCO   2   200  0.55nH       ; LCO
DX    1    2  D353
.model D353 D(IS=0.6f N=1.065 RS=200.0m XTI=3.0 EG=1.16
+ CJO=8.65p M=0.838 VJ=1.025 FC=0.5 TT=290.0n BV=16.5 IBV=10.0n)
.ends BBY53
*******************************************************
****************************************************************

* 200  = CATHODE OF COMPLETE DIODE IN PACKAGE
*
* Add Spice model or discrete equivalent circuit for chip
* between terminals (1) and (2)
****************************************************************