***************************************************************
*	Infineon	Technologies	AG
*	GUMMEL-POON	MODEL	IN	SPICE	2G6	SYNTAX
*	VALID	UP	TO	6	GHZ
*	>>>	BFR106	<<<
*	(C)	2012	Infineon	Technologies	AG
*	Version 2.1	January	2012
***************************************************************
* - Please use the global SPICE GP parameter TEMP to specify the
*	junction temperature of the device in your application to get
*	correct simulation results. This procedure is necessary because
*	the GP model does not consider the self heating of the device.
* - TEMP is calculated by TEMP=TA+Pdc*(RthJS+RthSA). The junction
*   temperature TEMP is the sum of the ambient temperature TA and
*   the increment of temperature caused by the dissipated DC power Pdc.
* - RthJS is the thermal resistance between the junction and the
*   soldering point. RthJS for this device is 110 K/W. RthSA is the
*   thermal resistance of the PCB, from the soldering point to the
*   ambient. For determination of RthSA please refer to Infineon's
*   Application Note "Thermal Resistance Calculation" AN077.
* - The model has been verified in the junction temperature range
*   -25°C to +125°C.
* - TNOM=25 °C is the nominal ambient temperature during measurement
*   for the parameter extraction. Please do not change this value.
****************************************************************
*.OPTION TNOM=25, GMIN= 1.00e-12
*BFR106 C B E
.SUBCKT BFR106 1 2 3
*
CBEPAR 22 33 2.22E-012
CBCPAR 22 11 4.288E-013
CCEPAR 11  33 2.621E-015
LB    22 20 6.736E-010
LE   33 30 6.937E-010
CBEPCK 20 30  1.567E-014
CBCPCK 11 20  1.975E-013
CCEPCK 11 30  1.497E-013
LBX    20 2 7.342E-010
LEX   30 3 6.492E-010
LCX   11 1  6.908E-010
*
Q1 11 22 33  M_BFR106
*
.MODEL 	M_BFR106	NPN(
+	TNOM = 25
+	IS	=	1.779E-015
+	BF	=	113.8
+	NF	=	1
+	VAF	=	27.87
+	IKF	=	1.181
+	ISE	=	1.644E-014
+	NE	=	2
+	BR	=	22
+	NR	=	0.9964
+	VAR	=	3.898
+	IKR	=	0.1065
+	ISC	=	8.839E-014
+	NC	=	1.567
+	RB	=	4.5
+	IRB	=	0
+	RBM	=	2.5
+	RE	=	0.07303
+	RC	=	5.1
+	XTB	=	1.303
+	EG	=	1.12
+	XTI	=	6.548
+	CJE	=	4.149E-012
+	VJE	=	0.8551
+	MJE	=	0.4611
+	TF	=	2.345E-011
+	XTF	=	10.29
+	VTF	=	7.452
+	ITF	=	0.5446
+	PTF	=	0.08058
+	CJC	=	9.627E-013
+	VJC	=	0.5893
+	MJC	=	0.4818
+	XCJC	=	0.5631
+	TR	=	1.434E-010
+	CJS	=	0
+	VJS	=	1
+	MJS	=	1
+	FC	=	0.5
+	KF	=	8.22E-015
+	AF	=	1.51)
***************************************************************
*
.ENDS BFR106