***************************************************************
*	Infineon	Technologies	AG
*	GUMMEL-POON	MODEL	IN	SPICE	2G6	SYNTAX
*	VALID	UP	TO	6	GHZ
*	>>>	BFR93AW	<<<
*	(C)	2014	Infineon	Technologies	AG
*	Version	2.1	March 2014
***************************************************************
*.OPTION TNOM=25, GMIN= 1.00e-12
*BFR93AW C B E
.SUBCKT BFR93AW 11 22 33
*
CBEPAR 2 3 3.297E-013
CBCPAR 2 1 2.991E-013
CCEPAR 1 3 2.712E-013
LEI    30 3 9E-010
LBI    20 2 9E-010
CBEPCK 20 30  1E-015
CBCPCK 20 1  6.06E-014
CCEPCK 1 30  3.088E-014
LB    22 20 1.002E-010
LE   33 30 8E-011
LC   11 1  2.618E-010
*
Q1 1 2 3 M_BFR93AW
*
.MODEL 	M_BFR93AW	NPN(
+	TNOM = 25
+	IS	=	7.812E-016
+	BF	=	114.4
+	NF	=	1
+	VAF	=	47.34
+	IKF	=	0.3039
+	ISE	=	5.518E-015
+	NE	=	1.87
+	BR	=	19.25
+	NR	=	0.9935
+	VAR	=	3.148
+	IKR	=	0.09474
+	ISC	=	2.383E-016
+	NC	=	1.169
+	RB	=	12.47
+	IRB	=	4.381E-005
+	RBM	=	0.85
+	RE	=	0.8144
+	RC	=	1.126
+	XTB	=	1.303
+	EG	=	1.11
+	XTI	=	6.548
+	CJE	=	2E-012
+	VJE	=	0.9
+	MJE	=	0.415
+	TF	=	2.13043E-011
+	XTF	=	40
+	VTF	=	3.40089
+	ITF	=	1.36553
+	PTF	=	0.016
+	CJC	=	5.951E-013
+	VJC	=	0.5713
+	MJC	=	0.3602
+	XCJC	=	1
+	TR	=	4.388E-009
+	CJS	=	0
+	MJS	=	0
+         VJS       =         0.8804
+	FC	=	0.9611
+	KF	=	0
+	AF	=	1)
***************************************************************
*
*
.ENDS BFR93AW
